US06339045B1
Production of 4-{methyl(phenylmethyl)amino}-6-{3-(trifluoromethyl)phenoxy}-2-pyridine carboxylic acid
2.00 g (0.0046 mol) of 2-bromo-4-{methyl(phenylmethyl)amino}-6-{3-(trifluoromethyl)phenoxy} pyridine was dissolved in about 100 ml of diethyl ether. While cooling the obtained suspension in a dry ice-acetone bath in an argon atmosphere, 2.2 ml of a 1.6M-hexane solution of BuLi (0.0023×1.5 mol) was added thereto, followed by stirring the suspension for about 10 minutes. After an interior of reactor was replaced with carbon dioxide gas, the reaction solution was removed from the bath and stirred at room temperature for about one hour. The reaction solution was mixed with about 10 ml of a 1N-HCl aqueous solution, and then distributed in ethyl acetate-water, followed by washing with saturated brine. The organic phase of the obtained solution was dried with anhydrous sodium sulfate, concentrated and subjected to silica gel column chromatography (eluting solution: ethyl acetate/hexane) to remove a main fraction therefrom. The fraction was concentrated, thereby obtaining an aimed product.

reactant | 2-bromo-4-{methyl(phenylmethyl)amino}-6-{3-(trifluoromethyl)phenoxy} pyridine | 0.0046 mol, 2.00 g | BrC1=NC(=CC(=C1)N(CC1=CC=CC=C1)C)OC1=CC(=CC=C1)C(F)(F)F | C20H16BrF3N2O
reactant | hexane | CCCCCC | C6H14
reactant | BuLi | 1.5 mol | [Li]CCCC
reactant | carbon dioxide | C(=O)=O | CO2
solvent | diethyl ether | about 100 ml | C(C)OCC | C4H10O
product | 4-{methyl(phenylmethyl)amino}-6-{3-(trifluoromethyl)phenoxy}-2-pyridine carboxylic acid | CN(C1=CC(=NC(=C1)OC1=CC(=CC=C1)C(F)(F)F)C(=O)O)CC1=CC=CC=C1 | C21H17F3N2O3
